US04012499
C. Preparation of 3-(5-Tetrazolyl)thioxanthone
A mixture of 3-cyanothioxanthone (2.56 g), sodium azide (0.84 g) and ammonium chloride (0.70 g) in dimethylformamide (20 ml) was heated on a steam bath for 5 hrs. The nitrile dissolved after 2 hr., at the same time a precipitate of the product forming. Much solid crystallised out on cooling. The reaction mixture was poured into excess dilute hydrochloric acid, and the yellow precipitate was filtered off and washed with water. It was dissolved in dilute aqueous sodium hydroxide, filtered and reprecipitated with dilute hydrochloric acid. The product was filtered off and dried at 110° C, and then recrystallised from dimethylformamide and dried at 154° C/15mm. Hg, decomposes 290° C.

reactant | 3-cyanothioxanthone | 2.56 g | C(#N)C=1C=CC=2C(C3=CC=CC=C3SC2C1)=O | C14H7NOS
reactant | sodium azide | 0.84 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.70 g | [Cl-].[NH4+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-Tetrazolyl)thioxanthone | N1N=NN=C1C=1C=CC=2C(C3=CC=CC=C3SC2C1)=O | C14H8N4OS
